US07291631B2
To a stirred solution of 4-methyl-5-imidazolemethanol (587 mg, 3.96 mmol) in anhydrous DMF (13 mL) was added DIPEA (2.1 mL, 11.9 mmol) followed by 2-(trimethylsilyl)ethoxymethyl chloride (793 mg, 4.76 mmol). The resultant solution was heated to 80° C. for 3 h then cooled to room temperature. The reaction mixture was poured into brine (15 mL), and diluted with H2O (6 mL) and EtOAc (40 mL). The phases were mixed vigorously for 10 minutes and separated. The organic phase was washed with brine (4×20 mL), dried (Na2SO4), and concentrated under reduced pressure. Purification of the crude orange oil by flash chromatography on silica gel (CH2Cl2/MeOH/NH4OH, 95:4:1) provided [5-Methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-4-yl]-methanol (535 mg, 56%) as a mixture of regioisomers.

reactant | 4-methyl-5-imidazolemethanol | 3.96 mmol, 587 mg | CC=1N=CNC1CO | C5H8N2O
reactant | DIPEA | 11.9 mmol, 2.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 4.76 mmol, 793 mg | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
solvent | brine | 15 mL | [Cl-].[Na+].O
solvent | H2O | 6 mL | O | H2O
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | [5-Methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-4-yl]-methanol | 535 mg, 56% | CC1=C(N=CN1COCC[Si](C)(C)C)CO | C11H22N2O2Si
